US05668291
2,2'-Dithiobis[N-(4-cyanophenyl)benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (2.00 g, 5.83 mmol) in 50 mL of dichloromethane and 4-aminobenzonitrile (1.38 g, 11.7 mmol) in 11 mL of pyridine. The crude product was triturated with a hot mixture of ethyl acetate and ethanol (1:1), filtered, and recrystallized from ethanol-DMF-water to yield 0.37 g of the title compound, mp 239°-241° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 5.83 mmol, 2.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 4-aminobenzonitrile | 11.7 mmol, 1.38 g | NC1=CC=C(C#N)C=C1 | C7H6N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | pyridine | 11 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-(4-cyanophenyl)benzamide] | 0.37 g | C(#N)C1=CC=C(C=C1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=CC=C(C=C2)C#N)C=CC=C1)=O | C28H18N4O2S2
